US05006522
Trans-5,11-dihydro-11-[4-[(4-hydroxy-cyclohexyl)methylamino]-but-2-ynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example lb) from 5,11-dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, paraformaldehyde and trans-(4-hydroxy-cyclohexyl)methylamine in a yield of 31% of theory. Colourless crystals, m.p. 183°-184° C. (after recrystallisation from ethyl acetate and methanol).

reactant | 5,11-dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C#C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O
reactant | paraformaldehyde | C=O | CH2O
reactant | trans-(4-hydroxy-cyclohexyl)methylamine | O[C@@H]1CC[C@H](CC1)CN | C7H15NO
product | Trans-5,11-dihydro-11-[4-[(4-hydroxy-cyclohexyl)methylamino]-but-2-ynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 31% | O[C@@H]1CC[C@H](CC1)CNCC#CCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C23H26N4O2
